US08461181B2
A mixture of 0.76 g of N1-sec-butyl-4-trifluoromethylbenzene-1,2-diamine, 0.84 g of sodium hydroxy-pyridin-4-yl-methanesulfonate and 17 ml of DMF was stirred for 1 hour at 120° C. The reaction mixture was cooled down to room temperature. Into the reaction mixture was poured a saturated sodium hydrogen carbonate aqueous solution, and the mixture was extracted three times with ethyl acetate. The organic layer was dried over magnesium sulfate, then, concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, to obtain 0.91 g of 1-sec-butyl-2-pyridin-4-yl-5-trifluoromethyl-1H-benzimidazole (hereinafter, referred to as present active compound 201).

reactant | N1-sec-butyl-4-trifluoromethylbenzene-1,2-diamine | 0.76 g | C(C)(CC)NC=1C(=CC(=CC1)C(F)(F)F)N | C11H15F3N2
reactant | sodium hydroxy-pyridin-4-yl-methanesulfonate | 0.84 g | OC(S(=O)(=O)[O-])C1=CC=NC=C1.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 17 ml | CN(C)C=O | C3H7NO
product | 1-sec-butyl-2-pyridin-4-yl-5-trifluoromethyl-1H-benzimidazole | 0.91 g | C(C)(CC)N1C(=NC2=C1C=CC(=C2)C(F)(F)F)C2=CC=NC=C2 | C17H16F3N3
